US04578389
3-ethoxy-4-[4-(4-amino-6,7-dimethoxyquinazolin-2-yl)-piperazin-1-yl]-1,2,5-thiadiazole-1-oxide
1.9 g (10 mMoles) of 3,4-diethoxy-1,2,5-thiadiazole-1-oxide are added to 2.9 g (10 mMoles) of 4-amino-6,7-dimethoxy-2-piperazinoquinazoline dissolved in 50 ml of tetrahydrofuran and 10 ml of methanol, followed by stirring for 5 hours at room temperature. The solid accumulating is separated off and recrystallized from 15 ml of dimethyl formamide and 10 ml of ethanol.

reactant | 3,4-diethoxy-1,2,5-thiadiazole-1-oxide | 10 mMoles, 1.9 g | C(C)OC1=NS(N=C1OCC)=O | C6H10N2O3S
reactant | 4-amino-6,7-dimethoxy-2-piperazinoquinazoline | 10 mMoles, 2.9 g | NC1=NC(=NC2=CC(=C(C=C12)OC)OC)N1CCNCC1 | C14H19N5O2
solvent | tetrahydrofuran | 50 ml | O1CCCC1 | C4H8O
solvent | methanol | 10 ml | CO | CH4O
product | 3-ethoxy-4-[4-(4-amino-6,7-dimethoxyquinazolin-2-yl)-piperazin-1-yl]-1,2,5-thiadiazole-1-oxide | C(C)OC1=NS(N=C1N1CCN(CC1)C1=NC2=CC(=C(C=C2C(=N1)N)OC)OC)=O | C18H23N7O4S
